US08871754B2
In a microwave vial, oxetan-3-amine (125 mg, 1.736 mmol), triethylamine (526 mg, 5.21 mmol) were added to a solution of 2-bromo-5-cyanopyridine (317 mg, 1.736 mmol) in isopropanol (3 mL). The vial was capped and irradiated in a microwave oven at 120° C. for 5 h. The reaction mixture was partitioned between ethyl acetate (10 mL) and water (10 mL). The organic layer was washed with brine, dried over Na2SO4 and the solvent was removed under reduced pressure. The resulting crude product was purified by column chromatography over silica gel (chloroform/MeOH, 0-5% EtOAc) to afford 75 mg (25%) of 6-(oxetan-3-ylamino)nicotinonitrile (I-25) as an off-white solid. 1H NMR (400 MHz, DMSO) δ 8.36 (s, 1H), 7.58-7.61 (dd, J=1.9, 6.9 Hz, 1H), 6.39 (d, J=8.7 Hz, 2H), 5.37 (br. s, 1H), 4.91-5.06 (m, 3H), 4.54-4.57 (m, 2H); ESI-LC/MS (m/z): [M+H]+ 176.2, RT 1.65 min.

reactant | oxetan-3-amine | 1.736 mmol, 125 mg | O1CC(C1)N | C3H7NO
reactant | triethylamine | 5.21 mmol, 526 mg | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-5-cyanopyridine | 1.736 mmol, 317 mg | BrC1=NC=C(C=C1)C#N | C6H3BrN2
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 6-(oxetan-3-ylamino)nicotinonitrile | 75 mg, 25% | O1CC(C1)NC1=NC=C(C#N)C=C1 | C9H9N3O
